data/mechanism_extracts/Nature/10.1038_s41586-021-03717-7.json
{"doi": "10.1038_s41586-021-03717-7", "journal": "Nature", "is_review": false, "rxn_class_summary": "Electrochemical aziridination of unactivated alkenes via thianthrene-mediated alkene activation to dicationic adducts, intercepted by primary amines", "mechanism_family": ["mediator_anodic", "cation_initiated", "radical_cation"], "electrochemical_role": "Anodic oxidation of thianthrene (TT) to its radical cation TT•+ at an RVC anode (~0.8 V vs Fc/Fc+); disproportionation of 2 TT•+ generates the thianthrene dication TT2+ in situ, which is the active electrophile toward the alkene", "key_intermediates": [{"name": "thianthrene radical cation (TT•+)", "smiles": null, "role": "reactive"}, {"name": "thianthrene dication (TT2+)", "smiles": null, "role": "reactive"}, {"name": "neutral thianthrene (TT)", "smiles": "c1ccc2c(c1)Sc1ccccc1S2", "role": "resting_state"}, {"name": "mono adduct 1 (thianthrenium-alkene cycloadduct, dicationic)", "smiles": null, "role": "transient"}, {"name": "bis adduct 2 (distonic bis-thianthrenium dication from TT•+ radical addition then radical-radical coupling)", "smiles": null, "role": "transient"}, {"name": "β-thianthrenium carbon radical (from TT•+ addition across alkene)", "smiles": null, "role": "transient"}], "electron_flow": "Anode removes one electron from TT to give TT•+; at high [TT], TT•+ adds across the alkene to give a distonic C-radical/sulfonium cation that is trapped by a second TT•+ to form bis adduct 2. Once TT is largely consumed, 2 TT•+ disproportionate to TT and TT2+, and TT2+ undergoes formal [3+2]-type cycloaddition with the alkene to give mono adduct 1, which is opened by amine/base to the aziridine.", "rate_determining_step": "Generation of TT2+ via disproportionation of TT•+ becomes rate-limiting in the second (accelerated) regime; in the first regime, radical addition of TT•+ to alkene controls the pseudo-zero-order rate", "probe_reagents": [{"name": "increased thianthrene loading (1.5 vs 2.5 equiv)", "smiles": null, "purpose": "kinetic_order", "observation": "Higher [TT] delays the sharp rate inflection but does not change the initial product-forming regime, consistent with TT•+ addition dominating until TT is consumed"}, {"name": "constant-potential electrolysis at 1.3 V vs Fc/Fc+", "smiles": null, "purpose": "redox_probe", "observation": "Direct anodic generation of TT2+ (bypassing disproportionation) accelerates reaction and gives exclusively mono adduct 1 (>20:1 vs <1:20 under 3.7 mA constant current at 30% conv.)"}, {"name": "cyclic voltammetry of TT/TT•+/TT2+", "smiles": null, "purpose": "redox_probe", "observation": "E1/2(TT) = 0.8 V and E1/2(TT•+) = 1.4 V vs Fc/Fc+; CV consistent with kinetically relevant disproportionation of TT•+ to TT and TT2+"}, {"name": "time-course product distribution (1 vs 2)", "smiles": null, "purpose": "other", "observation": "Bis adduct 2 forms exclusively at early times; mono adduct 1 grows in sharply after ~1 F/mol of TT has been passed, indicating a switch in mechanism as TT is consumed"}, {"name": "halide salts / KCN / no base controls", "smiles": null, "purpose": "intermediate_trap", "observation": "Adduct can be diverted to dihalogenation (40, 41), diamination (39), or vinyl nitrile (42), supporting a common electrophilic dicationic intermediate"}], "evidence_types_used": ["cyclic_voltammetry", "kinetic_order", "stoichiometric_intermediate", "intermediate_trap_other", "isolation_of_intermediate"], "evidence_strength": "strong", "notes": "Two parallel pathways operate at different stages of the same reaction: (i) at high [TT], radical addition of TT•+ to alkene followed by radical-radical coupling with a second TT•+ gives the bis adduct 2; (ii) at low [TT], disproportionation of TT•+ generates TT2+, which undergoes formal cycloaddition with alkene to give mono adduct 1. The authors note this is an unusual kinetic scenario in which two distinct products each form in high selectivity but at different time regimes of one reaction. Direct reaction of TT•+ with alkene to give mono adduct (without disproportionation) was considered but disfavored based on constant-potential experiments."}
